US09278931B2
A) tert-butyl(cyclopropylmethyl){trans-2-[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)phenyl]cyclopropyl}carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate (177.9 mg) and triethylamine (98 μL) in THF (2.94 mL) was added phthalic anhydride (105 mg). The mixture was stirred at room temperature overnight and the solvent was evaporated under reduced pressure. The residue was dissolved in acetic anhydride (3 mL), and the mixture was stirred at 80° C. for 5 hr. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (252.7 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate | 177.9 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)N(C(OC(C)(C)C)=O)CC1CC1 | C18H26N2O2
reactant | triethylamine | 98 μL | C(C)N(CC)CC | C6H15N
reactant | phthalic anhydride | 105 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | THF | 2.94 mL | C1CCOC1 | C4H8O
product | tert-butyl(cyclopropylmethyl){trans-2-[4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)phenyl]cyclopropyl}carbamate | 252.7 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)CC1CC1)=O | C26H28N2O4
